US08357711B2
tert-Butyl 6-benzyl-6-hydroxy-1,4-oxazepane-4-carboxylate
1.6M solution of butyl lithium in hexane (150 mL, 0.24 mol, 1.1 eq) was added to a solution of bromobenzene (25.3 mL, 0.24 mol, 1.1 eq) in THF (200 mL) at −60° C. in a stream of argon. The reaction mixture was cooled to −80° C., and a solution of tert-butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate (Preparation 80, 50 g, 0.22 mol, 1 eq) in THF was added. Then the mixture was cooled to −100° C., and a solution of etherate (30.4 g, 0.24 mol, 1.1 eq) was added at this temperature for 30 min. The reaction mixture was heated to 0° C. for 5 h, and 5M sodium hydrogen sulfate solution (50 mL) was added. The organic layer was separated, evaporated, and the residue was distributed between water and ether. The organic layer was separated, washed with water and brine, dried, evaporated, and the residue was dissolved in MeOH (200 mL). Ethylenediamine (30 mL) was added to the mixture, which was heated until boiled, cooled, evaporated, and coevaporated with dioxane. The residue was purified by chromatography on silica (1 L; carbon tetrachloride→chloroform, then MeOH 5%), evaporated and dried to give title compound (37.15 g, 0.12 mol, 55%).

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.24 mol, 150 mL, 1.1 eq | CCCCCC | C6H14
reactant | bromobenzene | 0.24 mol, 25.3 mL, 1.1 eq | BrC1=CC=CC=C1 | C6H5Br
reactant | tert-butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.22 mol, 50 g, 1 eq | C1(CC1)COCC1(CN(CCOC1)C(=O)OC(C)(C)C)O | C15H27NO5
reactant | sodium hydrogen sulfate | 5M, 50 mL | S(=O)(=O)(O)[O-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-Butyl 6-benzyl-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.12 mol, 37.15 g, 55% | C(C1=CC=CC=C1)C1(CN(CCOC1)C(=O)OC(C)(C)C)O | C17H25NO4
